US04152433
A mixture of manganous acetate tetrahydrate (120 g.), acetic acid (1000 ml) and acetic anhydride (100 ml.) was stirred for 20 minutes in an oil bath heated at 130° to 135° C., and to the mixture was added potassium permanganate (20 g.) over 5 minutes at 105° to 110° C. with stirring and then the mixture was further stirred for 30 minutes at 130° to 135° C. The mixture was cooled to room temperature, and to the mixture was added ethyl 2-(2-formylaminothiazol-4-yl)acetate, which can be represented as ethyl 2-(2-formylimino-2,3-dihydrothiazol-4-yl)acetate, (53.5 g.), and then the mixture was stirred for 15 hours at 38° to 40° C. under introduction of air at the rate of 6000 ml. per minute. After the reaction, the precipitates were collected by filtration. The precipitates were washed with acetic acid and water in turn and then dried to give ethyl 2-(2-formylaminothiazol-4-yl)glyoxylate, which can be represented as ethyl 2-(2-formylimino-2,3-dihydrothiazol-4-yl)glyoxylate, (41.5 g.), mp 232° to 233° C. (dec.).

reactant | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | potassium permanganate | 20 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | ethyl 2-(2-formylaminothiazol-4-yl)acetate | C(=O)NC=1SC=C(N1)CC(=O)OCC | C8H10N2O3S
reactant | ethyl 2-(2-formylimino-2,3-dihydrothiazol-4-yl)acetate | 53.5 g | C(=O)N=C1SC=C(N1)CC(=O)OCC | C8H10N2O3S
solvent | acetic acid | 1000 ml | C(C)(=O)O | C2H4O2
product | ethyl 2-(2-formylaminothiazol-4-yl)glyoxylate | C(=O)NC=1SC=C(N1)C(C(=O)OCC)=O | C8H8N2O4S
